US07074800B1
To a solution of 2,3-dimethyl-5-methoxyindole (175 mg, 1 mmol), (J. Chem. Soc. 1957, 3175–3180) in methylene (5 ml) cooled at −60° C. was added boron tribromide (210 μl, 2.2 mmol) dropwise. After completion of addition, the mixture was left to warm up to ambient temperature and was stirred for 1 hour. Water was added and the pH was adjusted to 6 with 2N sodium hydroxide. The mixture was extracted with ethyl acetate and the organic layer was separated, washed with brine, dried (MgSO4) and evaporated to give 2,3-dimethyl-5-hydroxyindole (124 mg, 77%).

reactant | 2,3-dimethyl-5-methoxyindole | 1 mmol, 175 mg | CC=1NC2=CC=C(C=C2C1C)OC | C11H13NO
reactant | boron tribromide | 2.2 mmol, 210 μl | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | Water | O | H2O
product | 2,3-dimethyl-5-hydroxyindole | 124 mg, 77% | CC=1NC2=CC=C(C=C2C1C)O | C10H11NO
